US09169267B2
4-[2-(4-bromophenyl)-2-oxoethyl]tetrahydro[1,3]oxazolo[2,3-b][1,3]oxazol-4-ium bromide
A solution of 2.779 g (10 mmol) 2,4′-dibromoacetophenone and 1.152 g (10 mmol) tetrahydro[1,3]oxazolo[2,3-b][1,3]oxazole in 20 ml of dichloromethane was refluxed for 3 hours. The precipitate was filtered off, washed twice with dichloromethane and dried. 3.801 g (96.7%) of white amorphous product was obtained, which can be further purified by recrystallisation from rectified ethanol.

reactant | 2,4′-dibromoacetophenone | 10 mmol, 2.779 g | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | tetrahydro[1,3]oxazolo[2,3-b][1,3]oxazole | 10 mmol, 1.152 g | O1CCN2C1OCC2 | C5H9NO2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-[2-(4-bromophenyl)-2-oxoethyl]tetrahydro[1,3]oxazolo[2,3-b][1,3]oxazol-4-ium bromide | 3.801 g, 96.7% | [Br-].BrC1=CC=C(C=C1)C(C[N+]12C(OCC1)OCC2)=O | InChI=1S/C13H15BrNO3.BrH/c14-11-3-1-10(2-4-11)12(16)9-15-5-7-17-13(15)18-8-6-15;/h1-4,13H,5-9H2;1H/q+1;/p-1
